US08017611B2
2-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]ethanol
2-Bromoethanol (0.051 ml) was added to a stirred suspension of 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-piperidin-4-ylpyrazol-4-yl]pyridin-2-amine] (145 mg) and potassium carbonate (124 mg) in DMF (2 ml) at 100° C. The mixture was stirred at 100° C. for 15 hours. The reaction mixture was then purified by preparative HPLC using a Waters OBD reverse-phase column (C-18, 5 microns silica, 30 mm diameter, 150 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent to afford the title compound as (90 mg) as a solid.

reactant | 2-Bromoethanol | 0.051 ml | BrCCO | C2H5BrO
reactant | 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-piperidin-4-ylpyrazol-4-yl]pyridin-2-amine | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C(=NN(C2)C2CCNCC2)COC)N | C22H24N6O2
reactant | potassium carbonate | 124 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]ethanol | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)CCO)COC)C=1OC2=C(N1)C=CC=C2 | C24H28N6O3
